US08957064B2
4-(2-ethylamino-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde
To 90 mg 4-(2-bromo-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde (prepared as described above) in 2 mL NMP were added 0.71 mL ethylamine. The mixture was heated under microwave irradiation to 100° C. for 80 min and then overnight at 100° C. under conventional heating. On cooling the reaction was diluted with water and extracted with EtOAc. The organic phase was washed with brine, dried and concentrated in vacuo to give the crude title compound as an orange oil which was used in the next step without further purification.

reactant | 4-(2-bromo-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 90 mg | BrC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C18H11BrN4O
reactant | ethylamine | 0.71 mL | C(C)N | C2H7N
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4-(2-ethylamino-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde | C(C)NC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C20H17N5O
